### ISSUE TITLE
repeat tactic: hover after `repeat` is confusing

### ISSUE THREAD

**Issue by nomeata** [leanprover/lean4#6624]
Consider this example
```
partial def whileSome (f : α → Option α) (x : α) : α :=
  match f x with
  | none => x
  | some x' => whileSome f x'

axiom whileSome_eq.{u_1} {α : Type u_1} (f : α → Option α) (x : α) :
  whileSome f x =
    match f x with
    | none => x
    | some x' => whileSome f x'

example : whileSome (fun x => do guard (x < 10); pure (x+1)) 1 = 10 := by
  rw [whileSome_eq]; simp [guard, failure] 
  rw [whileSome_eq]; simp [guard, failure] 
  rw [whileSome_eq]; simp [guard, failure] 
  rw [whileSome_eq]; simp [guard, failure] 
  rw [whileSome_eq]; simp [guard, failure] 
  rw [whileSome_eq]; simp [guard, failure] 
  rw [whileSome_eq]; simp [guard, failure] 
  rw [whileSome_eq]; simp [guard, failure] 
  rw [whileSome_eq]; simp [guard, failure] 
  rw [whileSome_eq]; simp [guard, failure] 
  done

example : whileSome (fun x => do guard (x < 10); pure (x+1)) 1 = 10 := by
  repeat (rw [whileSome_eq]; simp [guard, failure])
```

I first wrote the example with the repeated lines, and thought I could simplify it with `repeat`. Abut when I did that, the info view showed
```
mathlib-demo.lean:26:51
Tactic state
9 goals
⊢ whileSome (fun x => (if x < 10 then some () else none).bind fun x_1 => some (x + 1)) 2 = 10
⊢ whileSome (fun x => (if x < 10 then some () else none).bind fun x_1 => some (x + 1)) 3 = 10
⊢ whileSome (fun x => (if x < 10 then some () else none).bind fun x_1 => some (x + 1)) 4 = 10
⊢ whileSome (fun x => (if x < 10 then some () else none).bind fun x_1 => some (x + 1)) 5 = 10
⊢ whileSome (fun x => (if x < 10 then some () else none).bind fun x_1 => some (x + 1)) 6 = 10
⊢ whileSome (fun x => (if x < 10 then some () else none).bind fun x_1 => some (x + 1)) 7 = 10
⊢ whileSome (fun x => (if x < 10 then some () else none).bind fun x_1 => some (x + 1)) 8 = 10
⊢ whileSome (fun x => (if x < 10 then some () else none).bind fun x_1 => some (x + 1)) 9 = 10
⊢ whileSome (fun x => (if x < 10 then some () else none).bind fun x_1 => some (x + 1)) 10 = 10
```
and I thought I wasn’t done, and it left me very confused.

I tried `repeat'`, tried minimizing the example, only to notice that indeed I was done! It’s just that while my cursor was on the last character of that line, the closing parens, it showed the intermediary goals.

With other tactics one is used to seeing the goal after the full tactic when the cursor is at the end of the line, even those that show something different and interesting in between (like `rw […]`).

I am not sure what, if anything, can be done here, maybe this is by design and consistent and just something that one has to learn when using `repeat`. But now that I debugged this I wonder if this was the reason for all the other times I used `repeat` and thought it didn’t work as expected.

Maybe `repeat (…)` could be special-cased (i.e. the parentheses).

Maybe this UX confusion will go away once we have more a clear “your proof is incomplete **here**” markers that would leave me in no doubt about whether the proof is done (e.g. discussed in https://github.com/leanprover/lean4/issues/4190#issuecomment-2114840176).

### Versions

Lean 4.16.0-rc1

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.
